US06797718B2
Under a nitrogen atmosphere, diglyme (20 mL) was added to sodium hydride (0.548 g, 13.7 mmol), which is available as a 60% dispersion in mineral oil, and the mixture was cooled to 0° C. A solution of phenol (1.35 g, 14.4 mmol) in diglyme (20 mL) was added, and the addition flask was rinsed with additional diglyme (2×5 mL), which was added to the reaction flask. The reaction became homogeneous and was stirred for 30 minutes. Solid [2-(benzyloxy)ethyl]-(2-chloro-6-methyl-3-nitropyridin-4-yl)amine (4.2 g, 13 mmol) was added, and the resulting dark solution was heated at 60° C. for 90 minutes. The reaction was allowed to cool and then slowly poured into water (500 mL) and stirred rapidly for 90 minutes. A yellow solid formed, which was isolated by filtration and dissolved in ethyl acetate. The solution was then dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide a yellow oil, which began to crystallize over three days. The product was triturated with hexane, and the resulting solid was isolated by filtration and dried for two hours under high vacuum at 55° C. to provide 4.44 g of [2-(benzyloxy)ethyl]-(6-methyl-3-nitro-2-phenoxy-pyridin-4-yl)amine as a yellow solid.

reactant | sodium hydride | 13.7 mmol, 0.548 g | [H-].[Na+]
reactant | phenol | 14.4 mmol, 1.35 g | C1(=CC=CC=C1)O | C6H6O
reactant | [2-(benzyloxy)ethyl]-(2-chloro-6-methyl-3-nitropyridin-4-yl)amine | 13 mmol, 4.2 g | C(C1=CC=CC=C1)OCCNC1=C(C(=NC(=C1)C)Cl)[N+](=O)[O-] | C15H16ClN3O3
reactant | water | 500 mL | O | H2O
solvent | diglyme | 20 mL | COCCOCCOC | C6H14O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diglyme | 20 mL | COCCOCCOC | C6H14O3
product | [2-(benzyloxy)ethyl]-(6-methyl-3-nitro-2-phenoxy-pyridin-4-yl)amine | 4.44 g | C(C1=CC=CC=C1)OCCNC1=C(C(=NC(=C1)C)OC1=CC=CC=C1)[N+](=O)[O-] | C21H21N3O4
